US04734418
Ethyl 2-(4-benzylpiperazino)-4-hydroxypyrimidine-5-acetate
Added to an ethanol solution of sodium ethoxide, which had been prepared from 0.57 g (24.8 mmol) of sodium and 30 ml of EtOH, was 6.61 g (24.7 mmol) of 1-amidino-4-benzylpiperazine sulfate, followed by a dropwise addition of an ethanol solution (10 ml) of 5.0 g (24.7 mmol) of ethyl 2-formylsuccinate [the compound described in Ann. 363, 340] over 15 minutes. The resultant mixture was then refluxed for 4.5 hours. After cooling the reaction mixture, crystals were collected by filtration and then washed with water to obtain 3.65 g of the above-identified compound (yield: 41%).

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 24.8 mmol, 0.57 g | [Na] | Na
reactant | 1-amidino-4-benzylpiperazine sulfate | 24.7 mmol, 6.61 g | S(=O)(=O)(O)O.C(N)(=N)N1CCN(CC1)CC1=CC=CC=C1
reactant | ethyl 2-formylsuccinate | 24.7 mmol, 5.0 g | C(=O)C(C(=O)OCC)CC(=O)[O-]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | EtOH | 30 ml | CCO | C2H6O
product | Ethyl 2-(4-benzylpiperazino)-4-hydroxypyrimidine-5-acetate | 3.65 g, yield: 41% | C(C1=CC=CC=C1)N1CCN(CC1)C1=NC=C(C(=N1)O)CC(=O)OCC | C19H24N4O3
